US04992439
Diethyl azodicarboxylate (2.73 g, 2.50 mL, 16 mmol) was added to a stirred solution of 5,6-diphenyl-3(2H)-pyridazinone (3.00 g, 12 mmol), methyl [3-(2-hydroxyethyl)-phenoxy]acetate (2.80 g, 13 mmol) and triphenylphosphine (4.12 g, 16 mmol) in dry THF (75 mL) maintained at 0° C. The ice bath was removed and the mixture stirred at room temperature for 1.75 hours before removal of the solvent. The residue was chromatographed twice on columns of silica gel using mixtures of diethyl ether and hexanes (7:3) and then (3:2) as eluent to give methyl [3-[2-(1,6-dihydro-6-oxo-3,4-diphenyl-1-pyridazinyl)ethyl]phenoxyacetate] (5.12 g, 98%), contaminated with 0.6 equivalents of 1,2-dicarbethoxy hydrazine, as a white foam.

reactant | Diethyl azodicarboxylate | 16 mmol, 2.50 mL, 2.73 g | N(=NC(=O)OCC)C(=O)OCC | C6H10N2O4
reactant | 5,6-diphenyl-3(2H)-pyridazinone | 12 mmol, 3.00 g | C1(=CC=CC=C1)C1=CC(NN=C1C1=CC=CC=C1)=O | C16H12N2O
reactant | methyl [3-(2-hydroxyethyl)-phenoxy]acetate | 13 mmol, 2.80 g | OCCC=1C=C(OCC(=O)OC)C=CC1 | C11H14O4
reactant | triphenylphosphine | 16 mmol, 4.12 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
solvent | THF | 75 mL | C1CCOC1 | C4H8O
product | methyl [3-[2-(1,6-dihydro-6-oxo-3,4-diphenyl-1-pyridazinyl)ethyl]phenoxyacetate] | 5.12 g, 98% | O=C1C=C(C(=NN1CCC=1C=C(OCC(=O)OC)C=CC1)C1=CC=CC=C1)C1=CC=CC=C1 | C27H24N2O4
